2101-02-22 08:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-21**]: 2 positive blood cxs: Anaerobic bottle GNR G+R, aerobic GNR
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-2-22**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-22**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 61 (61 - 72) bpm
   BP: 100/32(49) {95/29(49) - 120/47(60)} mmHg
   RR: 25 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             519 mL
   PO:
             TF:
   IVF:
   519 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                     50 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/41/290/25/2
   PaO2 / FiO2: 414
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   36 K/uL
   11.9 g/dL
   77 mg/dL
   8.3 mg/dL
   25 mEq/L
   5.4 mEq/L
   60 mg/dL
   101 mEq/L
   138 mEq/L
   38.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2101-2-21**]  09:43 PM
                             [**2101-2-21**]  09:47 PM
                             [**2101-2-21**]  10:09 PM
                             [**2101-2-22**]  03:49 AM
   WBC
   8.8
   10.3
   Hct
   35.9
   38
   38.4
   Plt
   33
   36
   Cr
   8.3
   TCO2
   28
   Glucose
   225
   77
   Other labs: Lactic Acid:2.2 mmol/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
   76 yo F with lupus nephritis, CKD on HD, CAD s/p CABG, HTN, rectro-vag
   fistula who presented from PCP with acute respiratory distress.
   # Hypoxia:  Resolving.  DDx includes infection, hypervolemia, CHF
   exacterbation.  Unclear cause, not vol o/l on exam or on imaging, CT
   with out clear consolidation though patchy infiltrates with GGO's. Got
   CTX, levo and vanc in ED. UTI on UA  - SIRS physiology could ppt acute
   respiratory distress that quickly resolved with IVF and abx. Unlikely
   that PNA would resolve so fast.  CHF not likely as improved with
   fluids.  Gas 7.41/44/290 on NRB.
   - now on 4L nc, wean as tolerated
   - will continue abx - treat UTi with cipro/flagyl given rectovaginal
   fistula
   # Hypotension: Likely SIRS physiology with UTI as precipitating event.
   Unclear what baseline bp's are, but 90-100 on floor.  Prior notes with
   bp 120-140's, and given CRF, likely runs higher.  Got 1L in ED, looked
   hemoconcentrated on hct.  Consider hypovolemia with hct drop, though
   less likely, no acute s/sx significant bleeding.
   - will bolus carefully given on HD, though makes some urine
   - abx as above with cipro/flagyl
   - f/u blood cx, urine cx
   - hold anti-HTN meds
   - T & S active, trend hct
   - maintain sbp>100, tolerate non-invasive MAPs>60, cannot use UOP to
   monitor perfusion as oliguric
   # CRF: Cr slightly up from baseline, likely slightly hemoconcentrated.
   - renal aware
   - T/TH/Sa schedule, will get it tomorrow, no urgent need tonight
   - continue renagel, iron
   - renal diet
   - renally dose meds and avoid nephrotoxins
   # Recal Bleeding/Anemia:  Hct to 35 on repeat after blood found during
   PR tylenol dosing.  Known hemorrhoids.  GI aware, no acute need for
   scope.
   - trend
   - T & S active
   - tranfuse if <30 or e/o bleeding
   # Lupus: Continue plaquenil, prednisone
   # Gout: Continue home allopurinol
   # HTN: Holding home meds given hypotension
   # CAD: s/p CABG, continue home meds of statin, ASA, Plavix.  Holding BB
   as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-02-22 08:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   BPs good o/n, sat
ing well on 2L NC
   [**2-21**]: 2 positive blood cxs: Anaerobic bottle GNR G+R, aerobic GNR
   [**2-22**]: Getting HD this AM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-2-22**] 04:00 AM
   Cefepime add this AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-22**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 61 (61 - 72) bpm
   BP: 100/32(49) {95/29(49) - 120/47(60)} mmHg
   RR: 25 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             519 mL
   PO:
             TF:
   IVF:
   519 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                     50 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/41/290/25/2
   PaO2 / FiO2: 414
   Physical Examination
   Gen: NAD, breathing comfortably
   Neuro: Follows commands (
deep breath!
) despite language barrier
   CV: IV SEM loudest over L 4^th ICS
   Lungs: CTA
   Ab: Small ant abd wall hernia, reducible
   Skin: some ?green discoloration in places, warm, dry
   Labs / Radiology
   36 K/uL
   11.9 g/dL
   77 mg/dL
   8.3 mg/dL
   25 mEq/L
   5.4 mEq/L
   60 mg/dL
   101 mEq/L
   138 mEq/L
   38.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2101-2-21**]  09:43 PM
                             [**2101-2-21**]  09:47 PM
                             [**2101-2-21**]  10:09 PM
                             [**2101-2-22**]  03:49 AM
   WBC
   8.8
   10.3
   Hct
   35.9
   38
   38.4
   Plt
   33
   36
   Cr
   8.3
   TCO2
   28
   Glucose
   225
   77
   Other labs: Lactic Acid:2.2 mmol/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   76F with lupus nephritis, CKD on HD, CAD s/p CABG, HTN, rectovaginal
   fistula who presented from PCP with acute respiratory distress.
   # Polymicrobial Bacteremia: Source likely the RV fistula, especially in
   setting of rectal bleeding in ED. Received Ceftriaxone, Levo and Vanc
   in the ED, getting Cipro/Flagyl here. UTI on UA.
   -          Add Cefepime for GNR coverage
   -          Add new blood cxs
   # Hypoxia:  Resolving, now on 2L NC and saturating well. CT shows
   patchy infiltrates, small bilateral effusions. SIRS physiology
   (UTI/bacteremia) could have provoked acute respiratory distress that
   resolved with IVF and antibiotics. Unlikely that PNA would resolve so
   fast.  CHF not likely as improved with fluids.
   -          Wean O2 as tolerated
   # Thrombocytopenia: Platelets 36, have been chronically low. Previously
   anemic RBC lines now elevated to Hct 38.4 w/macrocytosis. Could this be
   myelodysplastic d/o?
   - Call patient
s PCP: [**Name10 (NameIs) 11286**] working up her low platelets? Is she still
   getting Epogen as part of CRF management?
    # Hypotension: Likely SIRS physiology BPs 90-100 on floor.  Prior
   notes with bp 120-140's, and given CRF, likely runs higher.  Got 1L in
   ED, looked hemoconcentrated on hct.
   - will bolus carefully given on HD, though makes some urine
   - abx as above
   - f/u blood cx, urine cx
   - hold anti-HTN meds
   - maintain sbp>100, tolerate non-invasive MAPs>60, cannot use UOP to
   monitor perfusion as oliguric
   # CRF: Cr slightly up from baseline looks underdialyzed vs
   hemoconcentrated.
   - HD this AM (T/TH/Sa schedule)
   - continue renagel, iron
   - renal diet
   - renally dose meds and avoid nephrotoxins
   # Recal Bleeding/Anemia:  Hct to 35 on repeat after blood found during
   PR Tylenol dosing.  Known hemorrhoids.  GI aware, no acute need for
   scope.  T & S active.
   -          tranfuse if <30 or e/o bleeding
   -          discuss how fistula is being followed with patient
s PCP
   [**Name Initial (PRE) **]          if not well followed, c/s colorectal surgery re fistula
   # Lupus: Continue plaquenil, prednisone
   # Gout: Continue home allopurinol
   # HTN: Holding home meds given hypotension
   # CAD: s/p CABG, continue home meds of statin, ASA, Plavix.  Holding BB
   as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  Protonix
   VAP:
   Comments:
   Communication:  Cantonese-only, daughter can help translate:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-02-23 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2101-2-22**] 11:30 AM
 BLOOD CULTURED - At [**2101-2-22**] 01:47 PM
 FEVER - 101.3
F - [**2101-2-23**] 04:00 AM
   .
   - Several 8-9 beat runs of v tach and complaining of significant back
   pain. V tach and pain improved significantly after 1 mg morphine and
   Magnesium repletion
   - Will need cantonese interpreter for ICU consent
   - Request for PICC submitted
   - Positive blood culture speciation still pending
   - Surgery recommended getting CT with gastrograffin to evaluate for
   rectovesicular fistula (has been ordered)
   - Spiked temp 101.3 overnight
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2101-2-22**] 01:46 PM
   Ciprofloxacin - [**2101-2-23**] 04:23 AM
   Metronidazole - [**2101-2-23**] 06:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 69 (61 - 115) bpm
   BP: 104/49(62) {100/30(49) - 157/67(79)} mmHg
   RR: 19 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,480 mL
                                                                    373 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    820 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                    145 mL
                                                                     60 mL
   Urine:
                                                                    145 mL
                                                                     25 mL
   NG:
   35 mL
   Stool:
   Drains:
   Balance:
                                                                  1,335 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   35 K/uL
   11.4 g/dL
   81 mg/dL
   5.3 mg/dL
   28 mEq/L
   5.4 mEq/L
   37 mg/dL
   97 mEq/L
   136 mEq/L
   35.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2101-2-21**]  09:43 PM
                             [**2101-2-21**]  09:47 PM
                             [**2101-2-21**]  10:09 PM
                             [**2101-2-22**]  03:49 AM
                             [**2101-2-22**]  03:45 PM
                             [**2101-2-23**]  03:59 AM
   WBC
   8.8
   10.3
   5.9
   Hct
   35.9
   38
   38.4
   35.2
   Plt
   33
   36
   35
   Cr
   8.3
   4.3
   5.3
   TCO2
   28
   Glucose
   [**Telephone/Fax (2) 11308**]
   Other labs: PT / PTT / INR:13.5/51.9/1.2, CK / CKMB /
   Troponin-T:274/3/, ALT / AST:16/30, Alk Phos / T Bili:163/0.3, Lactic
   Acid:2.2 mmol/L, Albumin:3.3 g/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-02-23 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2101-2-22**] 11:30 AM
 BLOOD CULTURED - At [**2101-2-22**] 01:47 PM
 FEVER - 101.3
F - [**2101-2-23**] 04:00 AM
   .
   - Several 8-9 beat runs of v tach and complaining of significant back
   pain. V tach and pain improved significantly after 1 mg morphine and
   Magnesium repletion
   - Will need cantonese interpreter for ICU consent
   - Request for PICC submitted
   - Positive blood culture speciation still pending
   - Surgery recommended getting CT with gastrograffin to evaluate for
   rectovesicular fistula (has been ordered)
   - Spiked temp 101.3 overnight
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2101-2-22**] 01:46 PM
   Ciprofloxacin - [**2101-2-23**] 04:23 AM
   Metronidazole - [**2101-2-23**] 06:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 69 (61 - 115) bpm
   BP: 104/49(62) {100/30(49) - 157/67(79)} mmHg
   RR: 19 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,480 mL
                                                                    373 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    820 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                    145 mL
                                                                     60 mL
   Urine:
                                                                    145 mL
                                                                     25 mL
   NG:
   35 mL
   Stool:
   Drains:
   Balance:
                                                                  1,335 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   35 K/uL
   11.4 g/dL
   81 mg/dL
   5.3 mg/dL
   28 mEq/L
   5.4 mEq/L
   37 mg/dL
   97 mEq/L
   136 mEq/L
   35.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2101-2-21**]  09:43 PM
                             [**2101-2-21**]  09:47 PM
                             [**2101-2-21**]  10:09 PM
                             [**2101-2-22**]  03:49 AM
                             [**2101-2-22**]  03:45 PM
                             [**2101-2-23**]  03:59 AM
   WBC
   8.8
   10.3
   5.9
   Hct
   35.9
   38
   38.4
   35.2
   Plt
   33
   36
   35
   Cr
   8.3
   4.3
   5.3
   TCO2
   28
   Glucose
   [**Telephone/Fax (2) 11308**]
   Other labs: PT / PTT / INR:13.5/51.9/1.2, CK / CKMB /
   Troponin-T:274/3/, ALT / AST:16/30, Alk Phos / T Bili:163/0.3, Lactic
   Acid:2.2 mmol/L, Albumin:3.3 g/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   76F with lupus nephritis, CKD on HD, CAD s/p CABG, HTN, rectovaginal
   fistula who presented from PCP with acute respiratory distress.
   # Polymicrobial Bacteremia: Source likely the RV fistula, especially in
   setting of rectal bleeding in ED. Received Ceftriaxone, Levo and Vanc
   in the ED, getting Cipro/Flagyl here. UTI on UA.
   -          Add Cefepime for GNR coverage
   -          Add new blood cxs
   # Hypoxia:  Resolving, now on 2L NC and saturating well. CT shows
   patchy infiltrates, small bilateral effusions. SIRS physiology
   (UTI/bacteremia) could have provoked acute respiratory distress that
   resolved with IVF and antibiotics. Unlikely that PNA would resolve so
   fast.  CHF not likely as improved with fluids.
   -          Wean O2 as tolerated
   # Thrombocytopenia: Platelets 36, have been chronically low. Previously
   anemic RBC lines now elevated to Hct 38.4 w/macrocytosis. Could this be
   myelodysplastic d/o?
   - Call patient
s PCP: [**Name10 (NameIs) 11286**] working up her low platelets? Is she still
   getting Epogen as part of CRF management?
    # Hypotension: Likely SIRS physiology BPs 90-100 on floor.  Prior
   notes with bp 120-140's, and given CRF, likely runs higher.  Got 1L in
   ED, looked hemoconcentrated on hct.
   - will bolus carefully given on HD, though makes some urine
   - abx as above
   - f/u blood cx, urine cx
   - hold anti-HTN meds
   - maintain sbp>100, tolerate non-invasive MAPs>60, cannot use UOP to
   monitor perfusion as oliguric
   # CRF: Cr slightly up from baseline looks underdialyzed vs
   hemoconcentrated.
   - HD this AM (T/TH/Sa schedule)
   - continue renagel, iron
   - renal diet
   - renally dose meds and avoid nephrotoxins
   # Recal Bleeding/Anemia:  Hct to 35 on repeat after blood found during
   PR Tylenol dosing.  Known hemorrhoids.  GI aware, no acute need for
   scope.  T & S active.
   -          tranfuse if <30 or e/o bleeding
   -          discuss how fistula is being followed with patient
s PCP
   [**Name Initial (PRE) **]          if not well followed, c/s colorectal surgery re fistula
   # Lupus: Continue plaquenil, prednisone
   # Gout: Continue home allopurinol
   # HTN: Holding home meds given hypotension
   # CAD: s/p CABG, continue home meds of statin, ASA, Plavix.  Holding BB
   as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  Protonix
   VAP:
   Comments:
   Communication:  Cantonese-only, daughter can help translate:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-02-23 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2101-2-22**] 11:30 AM
 BLOOD CULTURED - At [**2101-2-22**] 01:47 PM
 FEVER - 101.3
F - [**2101-2-23**] 04:00 AM
   .
   - Several 8-9 beat runs of v tach and complaining of significant back
   pain. V tach and pain improved significantly after 1 mg morphine and
   Magnesium repletion
   - Mild nausea and vomiting of scant fluid overnight
   - Will need cantonese interpreter for ICU consent
   - Request for PICC submitted
   - Positive blood culture speciation still pending
 GNR/GPR likely
   clostridium/bacillus
   - Surgery recommended getting CT abd/pelvis non cont with gastrograffin
   to evaluate for rectovesicular fistula (has been ordered)
   - Spiked temp 101.3 overnight (4am) but already pancultured 4pm
   yesterday
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2101-2-22**] 01:46 PM
   Ciprofloxacin - [**2101-2-23**] 04:23 AM
   Metronidazole - [**2101-2-23**] 06:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 69 (61 - 115) bpm
   BP: 104/49(62) {100/30(49) - 157/67(79)} mmHg
   RR: 19 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,480 mL
                                                                    373 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    820 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                    145 mL
                                                                     60 mL
   Urine:
                                                                    145 mL
                                                                     25 mL
   NG:
   35 mL
   Stool:
   Drains:
   Balance:
                                                                  1,335 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   35 K/uL
   11.4 g/dL
   81 mg/dL
   5.3 mg/dL
   28 mEq/L
   5.4 mEq/L
   37 mg/dL
   97 mEq/L
   136 mEq/L
   35.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2101-2-21**]  09:43 PM
                             [**2101-2-21**]  09:47 PM
                             [**2101-2-21**]  10:09 PM
                             [**2101-2-22**]  03:49 AM
                             [**2101-2-22**]  03:45 PM
                             [**2101-2-23**]  03:59 AM
   WBC
   8.8
   10.3
   5.9
   Hct
   35.9
   38
   38.4
   35.2
   Plt
   33
   36
   35
   Cr
   8.3
   4.3
   5.3
   TCO2
   28
   Glucose
   [**Telephone/Fax (2) 11308**]
   Other labs: PT / PTT / INR:13.5/51.9/1.2, CK / CKMB /
   Troponin-T:274/3/, ALT / AST:16/30, Alk Phos / T Bili:163/0.3, Lactic
   Acid:2.2 mmol/L, Albumin:3.3 g/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   76F with lupus nephritis, CKD on HD, CAD s/p CABG, HTN, rectovaginal
   fistula who presented from PCP with acute respiratory distress.
   # Polymicrobial Bacteremia: Source likely the RV fistula, especially in
   setting of rectal bleeding in ED. Received Ceftriaxone, Levo and Vanc
   in the ED, getting Cipro/Flagyl and Cefepime here (for GNR coverage).
   UTI on UA as well, which should be covered with current antibiotics
   - Follow-up on new blood/urine cultures
   - Will ask ID regarding coverage for GPR clostridium and bacillus
   # VTach: Brief runs yesterday. Etiology unclear but patient was in
   significant pain, recent hypoxia/hypotension with known cardiac
   disease. Responded well to Morphine and Magnesium repletion
   - Will continue to monitor closely on Telemetry
   - Re-start home beta blocker at low dose
   # Hypoxia:  Resolving, now on 2L NC and saturating well. CT shows
   patchy infiltrates, small bilateral effusions. SIRS physiology
   (UTI/bacteremia) could have provoked acute respiratory distress that
   resolved with IVF and antibiotics. Unlikely that PNA would resolve so
   fast.  CHF not likely as improved with fluids.
   - Wean O2 as tolerated
   # Thrombocytopenia: Platelets 36, have been chronically low. Previously
   anemic RBC lines now elevated to Hct 38.4 w/macrocytosis. Could this be
   myelodysplastic d/o?
   - Call patient
s PCP: [**Name10 (NameIs) 11286**] working up her low platelets? Is she still
   getting Epogen as part of CRF management?
   - Touch base with [**First Name8 (NamePattern2) 306**] [**Last Name (NamePattern1) **] in Heme/Onc who previously saw patient
    # Hypotension: Likely SIRS physiology BPs 90-100 on floor.  Prior
   notes with bp 120-140's, and given CRF, likely runs higher.  Got 1L in
   ED, looked hemoconcentrated on hct.
   - Will bolus carefully if needed given on HD, although she makes some
   urine
   - Abx as above
   - F/u blood cx, urine cx
   - Will start low-dose beta blocker per above
   - Maintain sbp>100, tolerate non-invasive MAPs>60, cannot use UOP to
   monitor perfusion as oliguric
   # CRF: Cr slightly up from baseline - ? underdialyzed vs
   hemoconcentrated.
   - HD tomorrow (T/TH/Sa schedule)
   - Follow up Renal recs
   - Continue renagel, iron
   - Renal diet
   - Renally dose meds and avoid nephrotoxins
   # Rectal Bleeding/Anemia:  Hct stable at 35 after blood found during PR
   Tylenol dosing on admission.  Known hemorrhoids.  GI aware, no acute
   need for scope.  T & S active.
   -          Transfuse if <30 or e/o bleeding
   -          General Surgery to evaluate CT abd/pelvis with graftograffin
   to assess fistula
   # Lupus: Continue plaquenil, prednisone
   # Gout: Continue home allopurinol
   # HTN: Holding home meds given hypotension
   # CAD: s/p CABG, continue home meds of statin, ASA, Plavix.  Holding BB
   as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  Protonix
   VAP:
   Comments:
   Communication:  Cantonese-only, daughter can help translate:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: